US08293916B2
Step 9: 2-Chloro-4-[5-(4-fluoro-phenyl)-1,4-dimethyl-1H-pyrazol-3-ylethynyl]-pyridine
To 11 ml of THF cooled to 0° C. were added 0.26 g of Potassium tert-butylate and 20 μl of water. Then a solution of 0.40 g 3-Chloro-2-(2-chloro-pyridin-4-yl)-3-[5-(4-fluoro-phenyl)-1,4-dimethyl-1H-pyrazol-3-yl]-propenal in 7 ml of THF was added at 0°. After stirring for 1 h at 5° C., 10 ml of 5% Bicarbonate solution were added and the aqueous phase was extracted twice with Ethyl acetate. The combined organic phases were washed with water and brine, dried over magnesium sulfate, filtered and evaporated. The crude product (0.28 g, yellow oil) was purified by chromatography on silica gel (Heptane/Ethyl acetate 4:1). The desired product was obtained as a white solid (0.275 g, 82%), MS: m/e=326.0 (M+).

reactant | Potassium tert-butylate | 0.26 g | CC(C)(C)[O-].[K+]
reactant | water | 20 μl | O | H2O
reactant | 3-Chloro-2-(2-chloro-pyridin-4-yl)-3-[5-(4-fluoro-phenyl)-1,4-dimethyl-1H-pyrazol-3-yl]-propenal | 0.40 g | ClC(=C(C=O)C1=CC(=NC=C1)Cl)C1=NN(C(=C1C)C1=CC=C(C=C1)F)C | C19H14Cl2FN3O
reactant | Bicarbonate | 10 ml | C([O-])(O)=O
solvent | THF | 7 ml | C1CCOC1 | C4H8O
solvent | THF | 11 ml | C1CCOC1 | C4H8O
product | 2-Chloro-4-[5-(4-fluoro-phenyl)-1,4-dimethyl-1H-pyrazol-3-ylethynyl]-pyridine | ClC1=NC=CC(=C1)C#CC1=NN(C(=C1C)C1=CC=C(C=C1)F)C | C18H13ClFN3
